US07495001B2
C] 3-{4-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-5,6,7,8-tetrahydro-naphthalen-1-yl}-propionic acid ethyl ester
A mixture of 103 mg (0.41 mmol) of the above prepared 3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester, 118 mg (0.41 mmol) of 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 4G]) and 175 mg (0.54 mmol) of cesium carbonate in 5 ml of acetonitrile was stirred at 60° C. for 2 hours. Then, the solvent was evaporated i. V. and the residue was chromatographed on SiO2 with a mixture of dichloromethane and tert.-butyl methyl ether (98:2, vol./vol.) as eluent. Thereby, 169 mg of the title compound was obtained as off white solid.

reactant | 3-(4-hydroxy-5,6,7,8-tetrahydro-naphthalen-1-yl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=2CCCCC12)O)=O | C15H20O3
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.41 mmol, 118 mg | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
reactant | cesium carbonate | 0.54 mmol, 175 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-{4-[2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-5,6,7,8-tetrahydro-naphthalen-1-yl}-propionic acid ethyl ester | 169 mg | C(C)OC(CCC1=CC=C(C=2CCCCC12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H30F3NO3
